US07691882B2
3-(1-(6-Benzyloxy-pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine
To an N,N-dimethylformamide (5.00 mL) solution of 3-(1H-pyrazol-4-yl)-pyridin-2-ylamine (20.0 mg, 0.125 mmol) described in Manufacturing Example 32-1-4 was added sodium hydride (5.50 g, 0.138 mmol, 60% in oil) on an ice bath (0° C.) under nitrogen atmosphere, which was stirred for 30 minutes at room temperature. Thereafter, 2-benzyloxy-5-chloromethyl-pyridine (49.7 mg, 0.213 mmol) described in Manufacturing Example 191-1-2 was added to this mixture, which was stirred for 30 minutes at room temperature. This mixture was partitioned into ethyl acetate and water at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1→ethyl acetate) to obtain the title compound (31.3 mg, 70.1%).

reactant | 3-(1H-pyrazol-4-yl)-pyridin-2-ylamine | 0.125 mmol, 20.0 mg | N1N=CC(=C1)C=1C(=NC=CC1)N | C8H8N4
reactant | sodium hydride | 0.138 mmol, 5.50 g | [H-].[Na+]
reactant | 2-benzyloxy-5-chloromethyl-pyridine | 0.213 mmol, 49.7 mg | C(C1=CC=CC=C1)OC1=NC=C(C=C1)CCl | C13H12ClNO
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
product | 3-(1-(6-Benzyloxy-pyridin-3-ylmethyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine | 31.3 mg, 70.1% | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CN1N=CC(=C1)C=1C(=NC=CC1)N | C21H19N5O
